US05834501
5-Ethoxy-2-hydroxymethyl-3-methylimidazo[5,4-b]pyridine
A procedure similar to that described in Preparation 43 was repeated, except that 4.15 g 3-amino-6-ethoxy-2-methylaminopyridine (prepared as described in Preparation 97), and 5.66 g of glycolic acid were used, and that the product was purified by column chromatography through silica gel, using a 10:1 by volume mixture of ethyl acetate and methanol as the eluent, to give 3.20 g of the title compound, melting at 161° C.

reactant | 3-amino-6-ethoxy-2-methylaminopyridine | 4.15 g | NC=1C(=NC(=CC1)OCC)NC | C8H13N3O
reactant | glycolic acid | 5.66 g | C(CO)(=O)O | C2H4O3
product | 5-Ethoxy-2-hydroxymethyl-3-methylimidazo[5,4-b]pyridine | 3.20 g | C(C)OC1=CC=C2C(=N1)N(C(=N2)CO)C | C10H13N3O2
